US05180742
D-Camphor-10-sulfonic acid (0.1 g) was added to a toluene solution (50 ml) of 2-methyl-1,4-naphthohydroquinone (3.6 g, 0.02 mole) and 6-ethoxy-6-(4-methoxyphenyl)hexanoic acid (5.6 g, 0.021 mole), and the mixture was heated at 60° C. for 18 hours, with stirring. After cooling, the solvent was distilled off under reduced pressure, and then tetrahydrofuran (20 ml) was added to the residue. A 10% aqueous solution of ferric chloride was added to the solution, followed by stirring for 10 minutes, and the reaction product was extracted with ethyl acetate. The organic layer was washed with water, dried and concentrated under reduced pressure. The residue was chromatographed on a silica gel column, and elution was effected with isopropyl ether to give 6-(3-methyl-1,4-naphthoquinon -2-yl)-6-(4-methoxyphenyl)hexanoic acid (3.5 g, 45%). This product was recrystallized from isopropyl ether. Its typical physical properties and nuclear magnetic resonance spectrum data are shown in Table 1. By following the procedure of this Example, the Compound No. 21 was prepared.

reactant | 2-methyl-1,4-naphthohydroquinone | 0.02 mole, 3.6 g | CC1=C(C2=CC=CC=C2C(=C1)O)O | C11H10O2
reactant | 6-ethoxy-6-(4-methoxyphenyl)hexanoic acid | 0.021 mole, 5.6 g | C(C)OC(CCCCC(=O)O)C1=CC=C(C=C1)OC | C15H22O4
catalyst | D-Camphor-10-sulfonic acid | 0.1 g | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(3-methyl-1,4-naphthoquinon -2-yl)-6-(4-methoxyphenyl)hexanoic acid | 3.5 g, 45% | CC1=C(C(C2=CC=CC=C2C1=O)=O)C(CCCCC(=O)O)C1=CC=C(C=C1)OC | C24H24O5
